US07713993B2
Synthesis of 4-(4-methoxyphenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole
Ammonium acetate (379 mg) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-(4-methoxyphenyl)-2-oxoethyl]acrylamide (100 mg) in acetic acid (3 mL), and the reaction solution was stirred at 120° C. for 12 hours. The reaction solution was concentrated. Ethyl acetate and saturated sodium bicarbonate water were added to the resulting residue, and the organic layer was separated. The resulting organic layer washed with brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate:2-propanol=20:1) to obtain 15 mg of the title compound. The property values of the compound are as follows.

reactant | Ammonium acetate | 379 mg | C(C)(=O)[O-].[NH4+]
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-(4-methoxyphenyl)-2-oxoethyl]acrylamide | 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NCC(=O)C1=CC=C(C=C1)OC | C23H23N3O4
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 4-(4-methoxyphenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole | 15 mg | COC1=CC=C(C=C1)C=1N=C(NC1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C23H22N4O2
